US08138181B2
Step 2E: Preparation of (S)-tert-butyl 3-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ylamino)pyrrolidine-1-carboxylate:
A stream of argon was passed through a mixture of 8-bromo-2-(7-(2-methoxyethoxy)-imidazo[1,2-a]pyridin-3-yl)quinoline (0.100 g, 0.2511 mmol), (R)-tert-butyl 3-aminopyrrolidine-1-carboxylate (0.05537 ml, 0.3264 mmol), Cs2CO3 (0.1145 g, 0.3515 mmol), Pd(OAc)2 (0.01127 g, 0.05022 mmol) and rac-BINAP (0.01564 g, 0.02511 mmol) in toluene (1 mL) for 15 minutes. The mixture was heated to 100° C. for 18 hours. The mixture was then allowed to cool to ambient temperature and dichloromethane was added. After stirring 30 minutes, the resulting mixture was filtered and the filtrate was concentrated to yield the title compound as an oil. MS APCI (+) m/z 504.1 (M+1) detected.

reactant | 8-bromo-2-(7-(2-methoxyethoxy)-imidazo[1,2-a]pyridin-3-yl)quinoline | 0.2511 mmol, 0.100 g | BrC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC | C19H16BrN3O2
reactant | (R)-tert-butyl 3-aminopyrrolidine-1-carboxylate | 0.3264 mmol, 0.05537 ml | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | Cs2CO3 | 0.3515 mmol, 0.1145 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | rac-BINAP | 0.02511 mmol, 0.01564 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.05022 mmol, 0.01127 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-tert-butyl 3-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ylamino)pyrrolidine-1-carboxylate | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)N[C@@H]2CN(CC2)C(=O)OC(C)(C)C | C28H33N5O4
